US08609653B2
To a solution of ethyl 1-(2,3-difluorobenzyl)-4-iodo-6-methyl-1H-pyrrolo[2,3-b]pyridine-5-carboxylate (10 g, 21.92 mmol) in dichloromethane (DCM) (160 mL) at −55° C. under nitrogen atmosphere was added dropwise DIBAL-H (129 mL, 129 mmol) (1M/toluene) in ˜20 min and then the mixture was allowed to warm to 0° C. in 1 h and stirred at 0° C. for 1.5 h. The mixture was cooled to −20° C. and water (5.2 mL) was added dropwise followed by 15% NaOH/water (5.2 mL) and water (12.9 ml) and stirring at ambient temperature continued for 30 min. The mixture was filtered through celite washing with dichloromethane. The filtrate was concentrated and dried in vacuo to provide (1-(2,3-difluorobenzyl)-4-iodo-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)methanol (8.76 g, 19.67 mmol, 90% yield) as a yellow solid. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.70 (t, J=6.05 Hz, 1 H), 2.82 (s, 3 H), 4.99 (d, J=6.05 Hz, 2 H), 5.51 (s, 2 H), 6.32 (d, J=3.52 Hz, 1 H), 6.81-6.89 (m, 1 H), 6.90-7.00 (m, 1 H), 7.07 (dd, J=9.67, 1.86 Hz, 1 H), 7.19 (d, J=3.52 Hz, 1 H); LCMS (m/z) ES+=415 (M+1).

reactant | ethyl 1-(2,3-difluorobenzyl)-4-iodo-6-methyl-1H-pyrrolo[2,3-b]pyridine-5-carboxylate | 21.92 mmol, 10 g | FC1=C(CN2C=CC=3C2=NC(=C(C3I)C(=O)OCC)C)C=CC=C1F | C18H15F2IN2O2
reactant | DIBAL-H | 129 mmol, 1M, 129 mL | CC(C)C[AlH]CC(C)C
reactant | water | 5.2 mL | O | H2O
reactant | NaOH water | 5.2 mL | [OH-].[Na+].O
reactant | water | 12.9 ml | O | H2O
solvent | dichloromethane | 160 mL | ClCCl | CH2Cl2
product | (1-(2,3-difluorobenzyl)-4-iodo-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)methanol | 19.67 mmol, 8.76 g, 90% yield | FC1=C(CN2C=CC=3C2=NC(=C(C3I)CO)C)C=CC=C1F | C16H13F2IN2O
